US07015246B2
3.92 g (9.15 mmol) of bis(4-methoxyphenyl)iodonium tetrafluoroborate are initially introduced, together with 0.77 g of copper bronze, in 60 ml of dichloromethane. A solution of 1.50 g (6.04 mmol) of ethyl 2-(6-hydroxy-5,7-dimethyl-1-benzofuran-3-yl)acetate and 0.68 g of triethylamine in 40 ml of dichloromethane is added dropwise at 0° C. The reaction mixture is stirred overnight at room temperature. The solvent is removed in vacuo and the residue is subjected to chromatographic purification (cyclohexane/ethyl acetate=6:1). 0.76 g (23%) of ethyl 2-[6-(4-methoxyphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate is obtained.

reactant | bis(4-methoxyphenyl)iodonium tetrafluoroborate | 9.15 mmol, 3.92 g | F[B-](F)(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | ethyl 2-(6-hydroxy-5,7-dimethyl-1-benzofuran-3-yl)acetate | 6.04 mmol, 1.50 g | OC1=C(C2=C(C(=CO2)CC(=O)OCC)C=C1C)C | C14H16O4
reactant | triethylamine | 0.68 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | copper bronze | 0.77 g | [Cu] | Cu
product | ethyl 2-[6-(4-methoxyphenoxy)-5,7-dimethyl-1-benzofuran-3-yl]acetate | 0.76 g, 23% | COC1=CC=C(OC2=C(C3=C(C(=CO3)CC(=O)OCC)C=C2C)C)C=C1 | C21H22O5
